US08080566B1
A 100-mL round-bottom flask was placed a solution of 6-nitrobiphenyl-2-carbaldehyde (6.2 g, 27.31 mmol, 1.00 equiv) in 1,2-dichlorobenzene (60 mL). To the mixture was added PPh3 (17.9 g, 68.32 mmol, 2.50 equiv) and the mixture was heated to reflux for 30 hours. Upon completion, the resulting mixture was concentrated on a rotary evaporator to give a residue that was purified by silica gel column chromatography affording 9H-carbazole-4-carbaldehyde as yellow solid (3 g, 56%).

reactant | 6-nitrobiphenyl-2-carbaldehyde | 27.31 mmol, 6.2 g, 1.00 equiv | [N+](=O)([O-])C=1C=CC=C(C1C1=CC=CC=C1)C=O | C13H9NO3
reactant | PPh3 | 68.32 mmol, 17.9 g, 2.50 equiv | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | 1,2-dichlorobenzene | 60 mL | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 9H-carbazole-4-carbaldehyde | 3 g, 56% | C1=CC=C(C=2C3=CC=CC=C3NC12)C=O | C13H9NO
